US09388189B2
2-(((6-Amino-5-(3-(difluoromethyl)-5-hydroxyphenyl)pyrimidin-4-yl)amino)methyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
To a solution of 2-(((6-amino-5-bromopyrimidin-4-yl)amino)methyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (70 mg, 0.16 mmol) in dioxane (2 ml) were added 3-(difluoromethyl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (67 mg, 0.25 mmol), 1,1′-bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (13 mg, 0.02 mmol) and 246 μl of a 2M aqueous solution of cesium carbonate. The mixture was stirred under argon atmosphere at 90° C. for 18 hours and then diluted with ethyl acetate. The resulting solution was washed with water and brine, dried over magnesium sulphate, filtered and the solvents were removed under reduced pressure. The crude was purified using SP1® Purification System (0% to 100%, hexane-ethyl acetate) to obtain 34 mg (42% yield) of the title compound as a white solid. Purity 100%.

reactant | 2-(((6-amino-5-bromopyrimidin-4-yl)amino)methyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.16 mmol, 70 mg | NC1=C(C(=NC=N1)NCC1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C)Br | C18H16BrN7O
reactant | 3-(difluoromethyl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.25 mmol, 67 mg | FC(C=1C=C(C=C(C1)B1OC(C(O1)(C)C)(C)C)O)F | C13H17BF2O3
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(((6-Amino-5-(3-(difluoromethyl)-5-hydroxyphenyl)pyrimidin-4-yl)amino)methyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 34 mg, 42% yield | NC1=C(C(=NC=N1)NCC1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C)C2=CC(=CC(=C2)O)C(F)F | C25H21F2N7O2
